US07807691B2
2-Chloro-4-(4-hydroxy-2,2-dimethyl-4-pyridin-3-yl-butylamino)-3-methyl-benzonitrile
Heat a solution of 5-amino-4-methyl-2-pyridin-3-yl-pentan-2-ol (630 mg, 3.24 mmol) and 2-chloro-4-fluoro-3-methyl-benzonitrile (493 mg, 2.92 mmol) in NMP (2 mL) at 120° C. for 2 h in a microwave reactor. Purify the crude product by SCX to obtain 570 mg (51%) of the title compound.

reactant | 5-amino-4-methyl-2-pyridin-3-yl-pentan-2-ol | 3.24 mmol, 630 mg | NCC(CC(C)(O)C=1C=NC=CC1)C | C11H18N2O
reactant | 2-chloro-4-fluoro-3-methyl-benzonitrile | 2.92 mmol, 493 mg | ClC1=C(C#N)C=CC(=C1C)F | C8H5ClFN
reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-Chloro-4-(4-hydroxy-2,2-dimethyl-4-pyridin-3-yl-butylamino)-3-methyl-benzonitrile | 570 mg, 51% | ClC1=C(C#N)C=CC(=C1C)NCC(CC(C=1C=NC=CC1)O)(C)C | C19H22ClN3O
